US06143764
N-(2-Methylthiophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [276]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (131 mg) was dissolved in toluene (13 ml) with heat, after the addition of triethylamine (2.6 ml), triphosgene (152 mg) was added, and the admixture was refluxed with heat for 2 minutes. 2-Methylthioaniline (0.11 ml) was added to the reaction mixture, and the admixture was refluxed with heat for 10 minutes. After the addition of aqueous sodium hydrogen carbonate, the reaction mixture was extracted 2 times with chloroform, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (4/1) to obtain 29 mg of the title compound (yield: 14%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 131 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | triphosgene | 152 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-Methylthioaniline | 0.11 ml | CSC1=C(N)C=CC=C1 | C7H9NS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
product | N-(2-Methylthiophenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 29 mg, yield: 14% | CSC1=C(C=CC=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C25H23N3O4S
